US07897619B2
(2S)-1-(4-Chlorophenyl)-4-(4-(isoquinolin-6-yl)-1H-pyrazol-1-yl)butan-2-amine:
A mixture of tert-butyl(S)-1-(4-chlorophenyl)-4-(4-(isoquinolin-6-yl)-1H-pyrazol-1-yl)butan-2-ylcarbamate (320 mg, 0.67 mmol) and TFA (5.00 mL, 64 mmol) in DCM (5 mL) was stirred at room temperature for 2 hours. After concentration by vacuum distillation, the residue was purified by reverse-phase HPLC (Phenomenex Synergi 4m Max RP 80 A column, 150×21 mm, 20 mL/min, 10-95% CH3CN/H2O, 0.1% TFA, 10.5 minute gradient) to give the product as an off-white solid (165 mg, 65%). HRMS (TOF) Calcd for C22H22ClN4+: 377.1535, found: 377.1531.

reactant | tert-butyl(S)-1-(4-chlorophenyl)-4-(4-(isoquinolin-6-yl)-1H-pyrazol-1-yl)butan-2-ylcarbamate | 0.67 mmol, 320 mg | ClC1=CC=C(C=C1)C[C@@H](CCN1N=CC(=C1)C=1C=C2C=CN=CC2=CC1)NC(OC(C)(C)C)=O | C27H29ClN4O2
reactant | TFA | 64 mmol, 5.00 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (2S)-1-(4-Chlorophenyl)-4-(4-(isoquinolin-6-yl)-1H-pyrazol-1-yl)butan-2-amine | 165 mg, 65% | ClC1=CC=C(C=C1)C[C@@H](CCN1N=CC(=C1)C=1C=C2C=CN=CC2=CC1)N | C22H21ClN4
